US08426449B2
Step 2: [3-(4-Bromo-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid methyl ester
Prepared according to the procedure described in Example 2, Step 4, using the following starting materials: (3-{4-bromo-2-[((S)-1-methyl-2-phenyl-ethylamino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester and methyl chloroformate.

reactant | (3-{4-bromo-2-[((S)-1-methyl-2-phenyl-ethylamino)-methyl]-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN[C@H](CC1=CC=CC=C1)C)=O | C25H26BrNO3
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
product | [3-(4-Bromo-2-{[methoxycarbonyl-((S)-1-methyl-2-phenyl-ethyl)-amino]-methyl}-phenoxy)-phenyl]-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN([C@H](CC1=CC=CC=C1)C)C(=O)OC)=O | C27H28BrNO5
